US07683060B2
Step 3. 4-{3-[1-(1,3-Benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}-N-{(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}benzamide
N,N-Diisopropylethylamine (14 μL, 0.080 mmol) was added to a mixture of (2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoic acid (14 mg, 0.026 mmol), dimethylamine (0.034 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (14 mg, 0.032 mmol) in DMF (0.4 mL). The mixture was stirred at RT overnight. The residue was diluted with methanol, and purified by RP-HPLC (pH=10) to afford the desired product. Analytical LCMS: (M+H)+=555.1.

reactant | N,N-Diisopropylethylamine | 0.080 mmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoic acid | 0.026 mmol, 14 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)N[C@H](C(=O)O)C(C)(C)C)C=C1 | C27H25N7O3S
reactant | dimethylamine | 0.034 mmol | CNC | C2H7N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.032 mmol, 14 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 4-{3-[1-(1,3-Benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}-N-{(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}benzamide | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)C)C=C1 | C29H30N8O2S
